US08022223B2
Step B: Preparation of 4-methyl-N-(3-(2-(trifluoromethyl)phenylthio)pyridin-2-yl)thiazol-2-amine:
A 25 mL round-bottomed flask was charged with 3-bromo-N-(4-methylthiazol-2-yl)pyridin-2-amine (0.082 g, 0.304 mmol) and THF (3 mL). The reaction was cooled to −78° C. and methyllithium (0.228 mL, 0.364 mmol) as a 1.6M solution in ether was added and stirred for 5 minutes. Butyllithium (0.146 mL, 0.364 mmol) as a 2.5M solution in hexane was added and the reaction was stirred for 5 minutes. 1,2-Bis(2-(trifluoromethyl)phenyl)disulfane (0.215 g, 0.607 mmol) was added and the reaction was warmed to room temperature and stirred for one hour. Saturated NH4Cl was added, and the reaction mixture was extracted with EtOAc. The combined organic layers were dried, filtered, and concentrated. The residue was purified on silica gel (1-10% EtOAc in hexanes) to afford the title compound (59 mg, 52% yield) as a white solid. 1H NMR (CDCl3) δ 9.04 (s, 1H), 8.47 (dd, 1H), 7.87 (dd, 1H), 7.69 (m, 2H), 7.31 (m, 1H), 6.97 (q, 1H), 6.83 (d, 1H), 6.43 (m, 1H), 2.32 (d, 3H). Mass spectrum (apci) m/z=368.2 (M+H).

reactant | 3-bromo-N-(4-methylthiazol-2-yl)pyridin-2-amine | 0.304 mmol, 0.082 g | BrC=1C(=NC=CC1)NC=1SC=C(N1)C | C9H8BrN3S
reactant | methyllithium | 0.364 mmol, 0.228 mL | C[Li]
reactant | Butyllithium | 0.364 mmol, 0.146 mL | C(CCC)[Li]
reactant | 1,2-Bis(2-(trifluoromethyl)phenyl)disulfane | 0.607 mmol, 0.215 g | FC(C1=C(C=CC=C1)SSC1=C(C=CC=C1)C(F)(F)F)(F)F | C14H8F6S2
reactant | NH4Cl | [NH4+].[Cl-]
solvent | ether | CCOCC | C4H10O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 4-methyl-N-(3-(2-(trifluoromethyl)phenylthio)pyridin-2-yl)thiazol-2-amine | 59 mg, 52% yield | CC=1N=C(SC1)NC1=NC=CC=C1SC1=C(C=CC=C1)C(F)(F)F | C16H12F3N3S2
